US04599296
50 g of methyl 12-hydroxystearate, 300 ml of methanol and 20 ml of a 28% methanol solution of sodium methoxide were mixed, and 50 ml of n-butylamine was added thereto. The resulting mixture was heat-refluxed for 6.5 hours. After cooling, the reaction mixture was poured into dilute hydrochloric acid, and the precipitated crystals were filtered to obtain 47 g of N-butyl-12-hydroxystearic acid amide having a melting point of 100°-102° C.

reactant | methyl 12-hydroxystearate | 50 g | OC(CCCCCCCCCCC(=O)OC)CCCCCC | C19H38O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | n-butylamine | 50 ml | C(CCC)N | C4H11N
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 300 ml | CO | CH4O
product | N-butyl-12-hydroxystearic acid amide | 47 g | C(CCC)NC(CCCCCCCCCCC(CCCCCC)O)=O | C22H45NO2
